US04031246
To a suspension of 9.6 g. of 50% sodium hydride in 250 ml. of dry dimethylformamide was added in portions 31.6 g. of 2-chloro-4-methoxyphenol. To this mixture was added 143 g. of bis(2-chloroethyl) ether, and the reaction mixture was heated at reflux with stirring for 8 hours. The volatile solvent was removed, the residue partitioned between water and methylene dichloride, and the organic solution washed with water and dried over anhydrous magnesium sulfate. The product was twice distilled to give 2-[2-(2-chloro-4-methoxyphenoxy)ethoxy]ethyl chloride, b.p. 139°-140° C. (0.05 mm.).

reactant | sodium hydride | [H-].[Na+]
reactant | 2-chloro-4-methoxyphenol | ClC1=C(C=CC(=C1)OC)O | C7H7ClO2
reactant | bis(2-chloroethyl) ether | ClCCOCCCl | C4H8Cl2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-[2-(2-chloro-4-methoxyphenoxy)ethoxy]ethyl chloride | ClC1=C(OCCOCCCl)C=CC(=C1)OC | C11H14Cl2O3
